US04367238
A solution of 2-methyl-6-(2-fluorophenoxy)aniline (27 g) in a mixture of conc. hydrochloric acid (26 ml) and water (85 ml), aqueous solution (15 ml) of sodium nitrite (8.6 g) and 42% fluoroboric acid (27 ml) were treated in a similar manner to that of Example 5-(1). To the resultant diazonium salt was added glacial acetic acid (500 ml), and the mixture was refluxed under heating for 6 hours. After cooling, the reaction mixture was evaporated, and water was added to the residue. The mixture was extracted with n-hexane, and the extract was washed with water and saturated aqueous sodium bicarbonate, dried and evaporated. To the oily residue were added 20% aqueous sodium hydroxide and ethanol, and the mixture was refluxed under heating for an hour, and then evaporated. Water was added to the residue, washed with n-hexane, acidified with conc. hydrochloric acid and extracted with n-hexane. The extract was washed with water, dried and evaporated. The residue was subjected to column chromatography on silica gel (220 g) and eluted with benzene to give oily 6-(2-fluorophenoxy)-o-cresol (13.6 g).

reactant | 2-methyl-6-(2-fluorophenoxy)aniline | 27 g | CC1=C(N)C(=CC=C1)OC1=C(C=CC=C1)F | C13H12FNO
reactant | hydrochloric acid | 26 ml | Cl | ClH
reactant | sodium nitrite | 15 ml, 8.6 g | N(=O)[O-].[Na+]
reactant | fluoroboric acid | 27 ml | F[B-](F)(F)F.[H+]
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | 85 ml | O | H2O
product | 6-(2-fluorophenoxy)-o-cresol | 13.6 g | FC1=C(OC=2C=CC=C(C2O)C)C=CC=C1 | C13H11FO2
